* source F2
C_C6         0 N03544  100n  TC=0,0 
R_R2         0 N03040  330k TC=0,0 
R_R4         N03092 N03364  150k TC=0,0 
X_U1B         N03344 N03368 VCC 0 N03368 LM324
C_C1         N03074 N03040  2.2u  TC=0,0 
R_R5         N03564 N03544  150k TC=0,0 
C_C5         N03564 B  100n  TC=0,0 
C_C3         N03364 N03368  100n  TC=0,0 
R_R1         N03074 N03092  330k TC=0,0 
R_R3         N03364 N03344  150k TC=0,0 
C_C4         0 N03344  100n  TC=0,0 
C_C2         A N03074  2.2u  TC=0,0 
X_U1A         N03040 N03092 VCC 0 N03092 LM324
X_U2B         N03544 B VCC 0 B LM324
R_R6         N03368 N03564  150k TC=0,0 
V_V1         VCC 0 5
R_R9         N05203 N05016  2.7k TC=0,0 
R_R7         N05199 N05044  2.7k TC=0,0 
X_U2C         N05016 N05044 VCC 0 A LM324
R_R10         0 N05016  560k TC=0,0 
R_R8         N05044 A  560k TC=0,0 
X_U2D         B N06141 VCC 0 N06166 LM324
R_R11         0 N06141  1k TC=0,0 
R_R12         N06166 N06141  1k TC=0,0 
V_V2         N05203 N05199  AC 1m
+SIN 0 10m 1.2 0 0 0
